* source SPICE_DIFFCIRCUIT
X_U1A         N00440 N00433 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00454 N00447 $D_HI $D_HI OUTPUT OUTPUT_BAR $G_DPWR $G_DGND 74107
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00433 N00429 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00429 N00454 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N00440 N00447 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00429 N00531  750 TC=0,0 
C_C1         N00531 N00454  400p  TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00440 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N00440 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
