* source SPICE_MULTIVIBRATOR
X_U1         0 N00317 N00592 N00126 N00284 N00317 N00774 N00126 555C
V_V1         N00126 0 5
C_C1         0 N00284  0.1u  TC=0,0 
R_R1         N00317 N00774  2.4k TC=0,0 
R_R2         N00774 N00126  2.4k TC=0,0 
C_C2         0 N00317  0.01u  TC=0,0 
R_R3         N00592 N01255  200 TC=0,0 
R_R4         N01255 N01367  200 TC=0,0 
R_R5         0 N01265  1k TC=0,0 
C_C3         N01255 N01367  0.1u  TC=0,0 
V_V2         0 N01542 10
V_V3         0 N01535 -10
X_U2         N01265 N01255 N01535 N01542 N01367 LF356/LT
