* source OPAMP_SPICE
X_U1         N00326 N00330 N00087 N00115 N00343 LF356/LT
V_V1         N00087 0 12Vdc
V_V2         0 N00115 12Vdc
R_R2         N00330 N00343  5k TC=0,0 
V_V4         N00326 0  AC 0
+SIN 0 0.5 60 0 0 0
R_R3         0 N00330  1k TC=0,0 
