* source SPICE_RESONANCECIRCUIT
R_R1         N00153 N00160  10 TC=0,0 
L_L1         N00160 N00164  2m  
C_C1         0 N00164  2u  TC=0,0 
V_V2         N00153 0 DC 0Vdc AC 5Vac 
V_V3         N01063 0 DC 0Vdc AC 5Vac 
R_R2         N01095 N01063  1 TC=0,0 
R_R3         0 N01063  1k TC=0,0 
C_C2         0 N01095  2u  TC=0,0 
L_L2         0 N01095  2m  
